datasets/RMG-dataset.csv
rxn,Ea
[C:0]([C:1]([C:2]([C:3]([O:4][O:5][H:16])([H:14])[H:15])[H:13])([C:6]([O:7][O:8][H:19])([H:17])[H:18])[H:12])([H:9])([H:10])[H:11]>>[C:0]([C:1]([C:2]1([H:13])[C:3]([H:14])([H:15])[O:4]1)([C:6]([O:7][O:8][H:19])([H:17])[H:18])[H:12])([H:9])([H:10])[H:11].[O:5][H:16],45.6056
[C:0](#[C:1][C:2](=[C:3]([C:4]([H:11])([H:12])[H:13])[C:5]([C:6](=[C:7]([C:8]([H:18])[H:19])[H:17])[H:16])([H:14])[H:15])[H:10])[H:9]>>[C:0](#[C:1][C:2]1([H:10])[C:3]([C:4]([H:11])([H:12])[H:13])[C:5]([H:14])([H:15])[C:6]([H:16])=[C:7]([H:17])[C:8]1([H:18])[H:19])[H:9],100.542
[C:0]([C:1]([H:5])([H:6])[H:7])([H:2])([H:3])[H:4].[C:8]([C:9]([C:10]([C:11]([H:20])([H:21])[H:22])([O:12][O:13])[H:19])([H:17])[H:18])([H:14])([H:15])[H:16]>>[C:0]([C:1]([H:5])([H:6])[H:7])([H:3])[H:4].[H:2][O:13][O:12][C:10]([C:9]([C:8]([H:14])([H:15])[H:16])([H:17])[H:18])([C:11]([H:20])([H:21])[H:22])[H:19],85.60464
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[C:4]([H:9])([H:10])[H:11])[H:5].[C:12](=[C:13]([C:14]([C:15]([H:26])([H:27])[H:28])=[C:16]([c:17]1[c:18]([H:30])[c:19]([H:31])[c:20]([H:32])[c:21]([H:33])[c:22]1[H:34])[H:29])[H:25])([H:23])[H:24]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([C:4]([H:9])([H:10])[H:11])[C:16]([C:14]([C:13](=[C:12]([H:23])[H:24])[H:25])[C:15]([H:26])([H:27])[H:28])([c:17]1[c:18]([H:30])[c:19]([H:31])[c:20]([H:32])[c:21]([H:33])[c:22]1[H:34])[H:29])[H:5],31.7566
[C:0]([C:1]([C:2]([C:3]([H:10])([H:11])[H:12])=[O:4])([H:8])[H:9])([H:5])([H:6])[H:7].[C:13]([C:14]([H:17])([H:18])[H:19])([H:15])[H:16]>>[C:0]([C:1]([C:2]([C:3]([H:11])[H:12])=[O:4])([H:8])[H:9])([H:5])([H:6])[H:7].[H:10][C:13]([C:14]([H:17])([H:18])[H:19])([H:15])[H:16],48.5344
[C:0]([C:1]([C:2]1[C:3]([H:17])([H:18])[C:4]([H:19])=[C:5]([H:20])[c:6]2[c:7]([H:21])[c:8]([H:22])[c:9]([H:23])[c:10]([H:24])[c:11]21)([H:15])[H:16])([H:12])([H:13])[H:14]>>[C:0]([C:1]([c:2]1[c:3]([H:18])[c:4]([H:19])[c:5]([H:20])[c:6]2[c:7]([H:21])[c:8]([H:22])[c:9]([H:23])[c:10]([H:24])[c:11]12)([H:15])[H:16])([H:12])([H:13])[H:14].[H:17],120.415
[C:0](=[C:1]([S:2][H:6])[H:5])([H:3])[H:4].[C:7]([C:8]([C:9]([H:14])([H:15])[H:16])[C:10]([H:17])([H:18])[H:19])([H:11])([H:12])[H:13]>>[C:0](=[C:1][S:2][H:6])([H:3])[H:4].[H:5][C:8]([C:7]([H:11])([H:12])[H:13])([C:9]([H:14])([H:15])[H:16])[C:10]([H:17])([H:18])[H:19],38.3254
[C:0]([C:1]([C:2]([C:3]1([H:16])[C:4]([H:17])([H:18])[C:5]([H:19])([H:20])[C:6]([H:21])([H:22])[C:7]([H:23])([H:24])[C:8]1([H:25])[H:26])([H:14])[H:15])([H:12])[H:13])([H:9])([H:10])[H:11].[H:27]>>[C:0]([C:1]([C:2]([C:3]1([H:16])[C:4]([H:17])([H:18])[C:5]([H:19])([H:20])[C:6]([H:21])([H:22])[C:7]([H:23])([H:24])[C:8]1([H:25])[H:26])[H:15])([H:12])[H:13])([H:9])([H:10])[H:11].[H:14][H:27],19.614592
[C:0](=[C:1]=[C:2]([H:5])[H:6])([H:3])[H:4].[C:7]([C:8]([C:9]([H:19])([H:20])[H:21])[c:10]1[c:11]([H:22])[c:12]([H:23])[c:13]([H:24])[c:14]([H:25])[c:15]1[H:26])([H:16])([H:17])[H:18]>>[C:0](=[C:1]=[C:2]([H:5])[H:6])[H:4].[H:3][C:8]([C:7]([H:16])([H:17])[H:18])([C:9]([H:19])([H:20])[H:21])[c:10]1[c:11]([H:22])[c:12]([H:23])[c:13]([H:24])[c:14]([H:25])[c:15]1[H:26],44.3504
[C:0](#[C:1][C:2]([C:3]([H:10])([H:11])[H:12])=[C:4]([C:5]([C:6]([C:7]([H:16])([H:17])[H:18])[C:8]([H:19])([H:20])[H:21])([H:14])[H:15])[H:13])[H:9]>>[C:0](#[C:1][C:2]([C:3]([H:10])([H:11])[H:12])[C:4]1([H:13])[C:5]([H:14])([H:15])[C:6]1([C:7]([H:16])([H:17])[H:18])[C:8]([H:19])([H:20])[H:21])[H:9],22.9702
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([H:26])([H:27])[H:28])([H:24])[H:25])([H:22])[H:23])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13])([H:9])([H:10])[H:11].[C:29]([H:30])([H:31])[H:32]>>[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([H:26])([H:27])[H:28])([H:24])[H:25])([H:22])[H:23])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])[H:15])([H:12])[H:13])([H:9])([H:10])[H:11].[H:14][C:29]([H:30])([H:31])[H:32],22.92832
[C:0]([C:1]([S:2][H:8])([H:6])[H:7])([H:3])([H:4])[H:5].[C:9]([C:10](=[S:11])[H:14])([H:12])[H:13]>>[C:0]([C:1]([S:2][H:8])[H:7])([H:3])([H:4])[H:5].[H:6][C:9]([C:10](=[S:11])[H:14])([H:12])[H:13],62.76
[C:0](#[C:1][C:2](=[C:3]([C:4](=[C:5]([H:13])[H:14])[H:12])[C:6]([C:7]([C:8]([C:9]([H:20])([H:21])[H:22])[H:19])([H:17])[H:18])([H:15])[H:16])[H:11])[H:10]>>[C:0](#[C:1][C:2]1([H:11])[C:3]([C:4](=[C:5]([H:13])[H:14])[H:12])[C:6]([H:15])([H:16])[C:7]([H:17])([H:18])[C:8]1([C:9]([H:20])([H:21])[H:22])[H:19])[H:10],57.3626
[C:0](#[C:1][C:2]([C:3](=[C:4]([C:5]([C:6](=[C:7]([H:15])[H:16])[H:14])([H:12])[H:13])[H:11])[H:10])[H:9])[H:8]>>[C:0](#[C:1][C:2]1([H:9])[C:3]([H:10])=[C:4]([H:11])[C:5]([H:12])([H:13])[C:6]1([C:7]([H:15])[H:16])[H:14])[H:8],115.562
[C:0](#[C:1][C:2](=[C:3]=[C:4]([C:5]#[C:6][H:10])[H:9])[H:8])[H:7].[H:11]>>[C:0](=[C:1]([C:2](=[C:3]=[C:4]([C:5]#[C:6][H:10])[H:9])[H:8])[H:11])[H:7],10.12528
